US08604021B2
N-(3-Bromobenzyl)-2-nitro-5-(piperazin-1-yl)benzenamine hydrochloride
To a solution of t-butyl 4-(3-(3-bromobenzylamino)-4-nitrophenyl)piperazine-1-carboxylate (104 mg, 0.23 mmol) in dry dichloromethane (1.0 mL) was added a saturated solution of HCl in diethyl ether (15 mL). The reaction mixture was stirred for 4 hours. The solvent was evaporated and the precipitate was recrystallized from methanol (0.3 mL), dichloromethane (0.5 mL) and diethyl ether (5 mL). The product was collected by filtration and dried in vacuo to afford the title compound (35.0 mg, 39% yield after recrystallization). 1H NMR (400 MHz, CD3OD): δ 8.07 (d, 1H), 7.42 (s, 1H), 7.33 (m, 2H), 7.28 (m, 1H), 6.40 (d, 1H), 6.03 (s, 1H), 4.61 (s, 1H), 3.56 (m, 4H), 3.27 (m, 4H); MS (ESI) m/z: Calculated for C17H20ClN4O2: 347.13; Observed: 347.5 (M++1).

reactant | t-butyl 4-(3-(3-bromobenzylamino)-4-nitrophenyl)piperazine-1-carboxylate | 0.23 mmol, 104 mg | BrC=1C=C(CNC=2C=C(C=CC2[N+](=O)[O-])N2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C22H27BrN4O4
reactant | HCl | Cl | ClH
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | N-(3-Bromobenzyl)-2-nitro-5-(piperazin-1-yl)benzenamine hydrochloride | 35.0 mg, 39% yield | Cl.BrC=1C=C(CNC2=C(C=CC(=C2)N2CCNCC2)[N+](=O)[O-])C=CC1 | InChI=1S/C17H19BrN4O2.ClH/c18-14-3-1-2-13(10-14)12-20-16-11-15(4-5-17(16)22(23)24)21-8-6-19-7-9-21;/h1-5,10-11,19-20H,6-9,12H2;1H
